US05244889
Trans 3-mercaptomethyl-2-oxo-1-azacyclodecane-10-carboxylic acid (0.75 g, 3.06 mmol) is dissolved in pyridine (20 mL). Acetyl chloride (0.26 g, 3.37 mmol) is added, and the reaction is stirred at room temperature overnight. The reaction is quenched by cooling to 0° C., adding concentrated hydrochloric acid (20 mL), diluting with water, and extracting several times with ethyl acetate. The combined organic layers are dried (MgSO4), and the solvent is evaporated to give trans 3-(acetylthiomethyl)-2-oxo-1-azacyclodecane-10-carboxylic acid, MS:M+1=288.

reactant | Trans 3-mercaptomethyl-2-oxo-1-azacyclodecane-10-carboxylic acid | 3.06 mmol, 0.75 g | SC[C@@H]1C(N[C@H](CCCCCC1)C(=O)O)=O | C11H19NO3S
reactant | Acetyl chloride | 3.37 mmol, 0.26 g | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | trans 3-(acetylthiomethyl)-2-oxo-1-azacyclodecane-10-carboxylic acid | C(C)(=O)SC[C@@H]1C(N[C@H](CCCCCC1)C(=O)O)=O | C13H21NO4S
